US06239151B1
A solution of 40.0 g of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide and 11.2 ml of pyridine in 400 ml of dichloromethane was stirred under a nitrogen atmosphere. 16.3 ml of trifluoroacetic anhydride were added and the mixture was stirred for 10 minutes at room temperature and then evaporated. The residue in ethyl acetate was washed with 5% sodium hydrogen carbonate solution, water, 2M aqueous hydrochloric acid and water. The ethyl acetate phase was dried over anhydrous magnesium sulphate and the solvent was evaporated to yield 55.0 g of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-isobutyl-2′-(trifluoroacetyl)-4-methylvalerohydrazide in the form of a dark orange colored gum.

reactant | (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide | 40.0 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNCC(C)C)CC(C)C | C25H40N2O3
reactant | pyridine | 11.2 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 16.3 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-isobutyl-2′-(trifluoroacetyl)-4-methylvalerohydrazide | 55.0 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(C(C(F)(F)F)=O)CC(C)C)CC(C)C | C27H39F3N2O4
